US05374720
(2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-pyrrolidon-4-yl)pyrrolidine diastereomer B (62.48 g, 163 mmol, compound of Reference Example 12) was dissolved in methanol (600 ml), and the solution was cooled to 0° C. Then, a 2.5N hydrochloric acid/methanol solution (230 ml, 570 mmol) was added thereto, and the mixture was stirred at room temperature for 3 hours. The precipitate was collected by filtration and dried to obtain white powder (30.01 g, yield: 89.1%) of (2S,4R)-4-hydroxy-2-(2-pyrrolidon-4-yl)pyrrolidine hydrochloride. This white powder (10.53 g, 50 mmol) was dissolved in a solvent mixture of dioxane (50 ml) and water (50 ml), and the pH was adjusted to 8 with triethyl amine. Then, 4,6-dimethyl-2-(p-nitrobenzyloxycarbonylthio)pyrimidine (17.55 g, 55 mmol) was added thereto, and the mixture was reacted for 6 hours while maintaining the pH at a level of 8. The reaction solution was concentrated, and tetrahydrofuran (100 ml) was added thereto. Insoluble matters were filtered off, and the filtrate was concentrated. The residue was subjected to column chromatography (Wakogel™ C-300, chloroform-methanol 40:1) to obtain (2S,4R)-4-hydroxy-N-(p-nitrobenzyloxycarbonyl)-2-(2-pyrrolidon-4yl)pyrrolidine diastereomer B (17.48 g, yield: 98.2%.

reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(2-pyrrolidon-4-yl)pyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C1CC(NC1)=O | C19H36N2O4Si
reactant | hydrochloric acid methanol | 570 mmol, 2.5N, 230 ml | Cl.CO
solvent | methanol | 600 ml | CO | CH4O
product | (2S,4R)-4-hydroxy-2-(2-pyrrolidon-4-yl)pyrrolidine hydrochloride | 30.01 g, yield: 89.1% | Cl.O[C@@H]1C[C@H](NC1)C1CC(NC1)=O | InChI=1S/C8H14N2O2.ClH/c11-6-2-7(9-4-6)5-1-8(12)10-3-5;/h5-7,9,11H,1-4H2,(H,10,12);1H/t5?,6-,7+;/m1./s1
